US09079918B2
Diethyl 2-acetamido-2-((6-bromo-5-fluoropyridin-2-yl)methyl)malonate: 2-Bromo-3-fluoro-6-methylpyridine (2.24 g, 11.79 mmol), NBS(2.34 g, 13.15 mmol), CCl4 (40 mL), and AIBN (0.10 g, 0.609 mmol) were added together and heated to reflux under argon for 4.5 h. The CCl4 was removed. The residue was dissolved in EtOAc and washed with water and brine. It was dried over Na2SO4, and concentrated to give 2-bromo-6-(bromomethyl)-3-fluoropyridine which was used in the next step without purification. MS (ESI) m/z: 269.9 (M+H)+. NaH (0.707 g of 60% dispersion, 17.69 mmol) was placed in a three-neck flask with 15 mL of DMF. It was cooled in an ice-bath. A solution of diethyl 2-acetamidomalonate (3.59 g, 11.79 mmol) in 15 mL of DMF was added dropwise via an additional funnel White foam formed and the mixture was stirred in the ice-bath for 20 minutes after the addition. A solution of 2-bromo-6-(bromomethyl)-3-fluoropyridine in 10 mL of DMF was added through an additional funnel dropwise. The ice-bath was removed and it was stirred at rt under argon for 2 h. It was quenched with water and extracted with EtOAc. The EtOAc solution was washed with water and brine, dried over Na2SO4, and concentrated. It was purified by normal phase chromatography to give 106A as an off-white solid (2.39 g, 50%). MS (ESI) m/z: 405.0 (M+H)+.

reactant | Diethyl 2-acetamido-2-((6-bromo-5-fluoropyridin-2-yl)methyl)malonate | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC1=NC(=C(C=C1)F)Br | C15H18BrFN2O5
reactant | 2-Bromo-3-fluoro-6-methylpyridine | 11.79 mmol, 2.24 g | BrC1=NC(=CC=C1F)C | C6H5BrFN
reactant | NBS | 13.15 mmol, 2.34 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.609 mmol, 0.10 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-6-(bromomethyl)-3-fluoropyridine | BrC1=NC(=CC=C1F)CBr | C6H4Br2FN
